US07884207B2
Under a nitrogen atmosphere sodium methoxide (1.03 mL of 25 wt % in methanol, 4.51 mmol) was added dropwise to a solution of tetrahydro-4H-thiopyran-4-one (10.48 g, 90.20 mol) and nitromethane (7.33 mL, 135.3 mmol) in ethanol (6 mL). The reaction mixture was stirred at ambient temperature for 5 days and then concentrated under reduced pressure. The residue was partitioned between chloroform (400 mL) and water (60 mL). The aqueous was extracted with chloroform (5×100 mL). The combined organics were dried over magnesium sulfate, filtered, and then concentrated under reduced pressure. The residue was purified by HPFC eluting with a gradient of 3-35% ethyl acetate in hexanes to provide 10.23 g of 4-(nitromethyl)tetrahydro-2H-thiopyran-4-ol.

reactant | tetrahydro-4H-thiopyran-4-one | 90.20 mol, 10.48 g | S1CCC(CC1)=O | C5H8OS
reactant | nitromethane | 135.3 mmol, 7.33 mL | [N+](=O)([O-])C | CH3NO2
solvent | ethanol | 6 mL | C(C)O | C2H6O
catalyst | sodium methoxide | 4.51 mmol, 1.03 mL | C[O-].[Na+]
product | 4-(nitromethyl)tetrahydro-2H-thiopyran-4-ol | 10.23 g | [N+](=O)([O-])CC1(CCSCC1)O | C6H11NO3S
